US07018988B2
Intermediate 10: 1-[(aminooxy)methyl]-4-methoxybenzene
A solution was made of Boc hydroxylamine (2.0 g, 17.1 mmol) in dry THF (60 ml). Sodium hydride (1.1 g of a 60% suspension in paraffin oil, 25.7 mmol) was then added and the suspension stirred. A catalytic amount of KI was then added to the reaction prior to the cautious addition of 4-methoxybenzyl chloride (3.2 g, 20.4 mmol). The reaction was then allowed to stir overnight before removal of solvent in vacuo. The residue was taken up with diethyl ether (100 ml) and HCl gas bubbled in for 20 minutes, causing the start of precipitation of the product. The flask was stoppered and left to stand overnight. The product was then filtered off as a off-white wax (39–52% yield according to varying batches).

reactant | Boc hydroxylamine | 17.1 mmol, 2.0 g | C(=O)(OC(C)(C)C)NO | C5H11NO3
reactant | Sodium hydride | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 20.4 mmol, 3.2 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | HCl | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-[(aminooxy)methyl]-4-methoxybenzene | 39–52% yield | NOCC1=CC=C(C=C1)OC | C8H11NO2
